US04735940
(aa) Method A: 23.65 g of 3,4-dihydroisoquinoline-1(2H)-thione was dissolved in 750 ml of chloroform, whereupon the solution was treated at room temperature while cooling firstly with 54 g of α-bromophenylacetyl chloride and 90 minutes later with 53 ml of triethylamine and the mixture was stirred at room temperature overnight. The reaction mixture was washed with water, dried over magnesium sulfate and evaporated in vacuo. There was obtained 5,6-dihydro-3-hydroxy-2-phenylthiazolo[2,3-a]isoquinolinium hydroxide (internal salt) of m.p. 210° (dec.) (from acetonitrile/dioxane).

reactant | 3,4-dihydroisoquinoline-1(2H)-thione | 23.65 g | C1(NCCC2=CC=CC=C12)=S | C9H9NS
reactant | α-bromophenylacetyl chloride | 54 g | BrC(C(=O)Cl)C1=CC=CC=C1 | C8H6BrClO
reactant | triethylamine | 53 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 750 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,6-dihydro-3-hydroxy-2-phenylthiazolo[2,3-a]isoquinolinium hydroxide | [OH-].OC1=C(SC2=[N+]1CCC1=CC=CC=C21)C2=CC=CC=C2 | InChI=1S/C17H13NOS.H2O/c19-16-15(13-7-2-1-3-8-13)20-17-14-9-5-4-6-12(14)10-11-18(16)17;/h1-9H,10-11H2;1H2
